US04070366
2,3-Dimethyl-4,5-diethyl-pyrrole
As in Example 58, using 2,3-dimethyl-pyrrole (1.6 g), acetic acid (40 ml), hydriodic acid (40 ml), hypophosphorous acid (8 ml) and paraldehyde (1.4 ml). The product (48%) was an oil, b.p. 45°-47° (0.05 mm). Anal. Calc. for C10H17N: C, 79.40; H, 11.34; N, 9.26. Found: C, 79.09; H, 11.27; N, 9.37.

reactant | 2,3-dimethyl-pyrrole | 1.6 g | CC=1NC=CC1C | C6H9N
reactant | hydriodic acid | 40 ml | I | HI
reactant | hypophosphorous acid | 8 ml | [PH2](=O)O | H3O2P
reactant | paraldehyde | 1.4 ml | CC1OC(OC(O1)C)C | C6H12O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethyl-4,5-diethyl-pyrrole | CC=1NC(=C(C1C)CC)CC | C10H17N
